US04791220
(a) Preparation of methyl 3-pyrrolidinovalerate
A mixture of 171 g of methyl 2-trans-pentenoate and 106.5 g of pyrrolidine was heated for 20 hours at 100° C. After distillation over a Vigreux column, 198.7 g (72% of theory) of methyl 3-pyrrolidinovalerate of boiling point 65° C./0.4 mbar, nD20 =1.4580, were obtained.

reactant | methyl 2-trans-pentenoate | 171 g | C(\C=C\CC)(=O)OC | C6H10O2
reactant | pyrrolidine | 106.5 g | N1CCCC1 | C4H9N
product | methyl 3-pyrrolidinovalerate | N1(CCCC1)C(CC(=O)OC)CC | C10H19NO2
